US06376538B1
To a solution of 4-hydroxyphenylacetic acid (3.0 g, 20 mmol) in DMF was added HOBT (3.7 g, 24 mmol) followed by EDC (4.2 g, 22 mmol) and the mixture was stirred at room temperature for 30 min. N-hydroxysuccinimide (2.3 g, 20 mmol) was added and stirred at room temperature overnight. The resulting mixture was diluted with ethyl acetate (150 ml), extracted with 5% citric acid (2×), saturated NaHCO3 (2×) and brine (1×) and was dried over anhydrous Na2SO4. Following removal of the solvent in vacuo the product was dissolved in CH2Cl2 and precipitated with hexanes to afford 4-hydroxyphenylacetic acid succinimidyl ester (3.9 g, 78%). 1H NMR (300 MHz, DMSO-d6): 2.79 (s, 4 H), 3.93 (s, 2 H), 6.72 (d, J=8.5 Hz, 2 H), 7.12 (d, J=8.5 Hz, 2 H), 9.41 (s, 1 H).

reactant | 4-hydroxyphenylacetic acid | 20 mmol, 3.0 g | OC1=CC=C(C=C1)CC(=O)O | C8H8O3
reactant | HOBT | 24 mmol, 3.7 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 22 mmol, 4.2 g
reactant | N-hydroxysuccinimide | 20 mmol, 2.3 g | ON1C(CCC1=O)=O | C4H5NO3
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
product | 4-hydroxyphenylacetic acid succinimidyl ester | 3.9 g, 78% | C1(CCC(N1OC(CC1=CC=C(C=C1)O)=O)=O)=O | C12H11NO5
